US08217032B2
Trifluoromethanesulfonic acid 1-[4-(2-azepan-1-yl-ethoxy)-benzoyl]-6-methoxynaphthalen-2-yl ester
Dissolve [4-(2-azepan-1-yl-ethoxy)-phenyl]-(2-hydroxy-6-methoxy-naphthalen-1-yl)-methanone (41.0 g, 88.0 mmol) and triethylamine (28.8 g, 284 mmol) in dichloromethane (400 mL). Cool to −60° C. and add trifluoromethanesulphonic anhydride (39.8 g, 141 mmol) in dichloromethane (100 mL). Warm to room temperature and stir. Dilute with saturated aqueous sodium bicarbonate (500 mL) and separate the organic. Wash the aqueous with dichloromethane (200 mL). Combine the organics and wash with saturated aqueous sodium chloride. Dry over magnesium sulfate, filter, and concentrate in vacuo. Purify the residue by column chromatography using a silica gel column eluting with a linear gradient beginning with dichloromethane and ending with 30:1 dichloromethane:methanol to give 48.6 g of the title compound (96%).

reactant | [4-(2-azepan-1-yl-ethoxy)-phenyl]-(2-hydroxy-6-methoxy-naphthalen-1-yl)-methanone | 88.0 mmol, 41.0 g | N1(CCCCCC1)CCOC1=CC=C(C=C1)C(=O)C1=C(C=CC2=CC(=CC=C12)OC)O | C26H29NO4
reactant | triethylamine | 284 mmol, 28.8 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulphonic anhydride | 141 mmol, 39.8 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 500 mL | C([O-])(O)=O.[Na+]
product | Trifluoromethanesulfonic acid 1-[4-(2-azepan-1-yl-ethoxy)-benzoyl]-6-methoxynaphthalen-2-yl ester | 48.6 g, 96% | N1(CCCCCC1)CCOC1=CC=C(C(=O)C2=C(C=CC3=CC(=CC=C23)OC)OS(=O)(=O)C(F)(F)F)C=C1 | C27H28F3NO6S
